US04714492
A 5000 ml 3-neck flask is fitted with a N2 inlet, magnetic stirring bar, thermometer and a Dean-Stark trap with condenser. 2300 ml of dry methanol is added to the flask along with 244 g of 96% H2SO4 and 352 g of trimethyl orthoformate. 173 g of 3-(4'-chlorobenzoyl)-4-hydroxy-6-methyl-2-pyrone is added and the reaction mixture is gently brought to reflux. The most volatile by-product of the reaction (methyl formate) is condensed and collected in the Dean-Stark trap. After 28-281/2 hours of reflux the reaction mixture is cooled to room temperature and poured into 6000 ml of brine. The resulting suspension is extracted with methylene chloride (6×250 ml). Evaporation of the solvent yields 153 g of 3-methoxycarbonyl-6-methyl-2-(4'-chlorophenyl)-4-pyrone. mp (methylene chloride/ether)=131°-132° C.

reactant | H2SO4 | 244 g | OS(=O)(=O)O | H2O4S
reactant | trimethyl orthoformate | 352 g | C(OC)(OC)OC | C4H10O3
reactant | 3-(4'-chlorobenzoyl)-4-hydroxy-6-methyl-2-pyrone | 173 g | ClC1=CC=C(C(=O)C=2C(OC(=CC2O)C)=O)C=C1 | C13H9ClO4
reactant | methyl formate | C(=O)OC | C2H4O2
solvent | methanol | 2300 ml | CO | CH4O
product | 3-methoxycarbonyl-6-methyl-2-(4'-chlorophenyl)-4-pyrone | 153 g | COC(=O)C1=C(OC(=CC1=O)C)C1=CC=C(C=C1)Cl | C14H11ClO4
